US08242104B2
Step 1: methyl 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate
To a solution of 1-(2-chlorophenyl)-1H-imidazole (0.133 g, 0.743 mmol) in tetrahydrofuran (5.43 mL, 66.9 mmol) at −78° C. was added 1.60 M of n-Butyllithium in Hexane (0.464 mL) dropwise. The reaction mixture was stirred at −78° C. for 1 h then 0.50 M of Zinc dichloride in Tetrahydrofuran (1.48 mL) was added. The reaction mixture was warmed to RT 30 min then added Tetrakis(triphenylphosphine)palladium(0) (0.0780 g, 0.0675 mmol), solution of methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate (0.250 g, 0.675 mmol) in 2 ml THF. The reaction was reflux for 2 h followed by treating with additional 0.50 M of Zinc dichloride in Tetrahydrofuran 2.2 ml and refluxed 3 h. The mixture was diluted with EtOAc then washed with sat. Na2CO3, and brine. The organic layer was dried over Na2SO4, concentrated in vacuo. The crude product, methyl 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate, was purified by chromatography. MS: (ESI+)=421.2

reactant | 1-(2-chlorophenyl)-1H-imidazole | 0.743 mmol, 0.133 g | ClC1=C(C=CC=C1)N1C=NC=C1 | C9H7ClN2
reactant | n-Butyllithium | 1.60 M | C(CCC)[Li]
reactant | methyl 2-iodo-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | 0.675 mmol, 0.250 g | IC=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C13H11IN2O3
solvent | Hexane | 0.464 mL | CCCCCC | C6H14
solvent | Tetrahydrofuran | 1.48 mL | O1CCCC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | Tetrahydrofuran | 2.2 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Zinc dichloride | 0.50 M | [Cl-].[Cl-].[Zn+2]
catalyst | Tetrakis(triphenylphosphine)palladium(0) | 0.0675 mmol, 0.0780 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | Zinc dichloride | 0.50 M | [Cl-].[Cl-].[Zn+2]
solvent | tetrahydrofuran | 66.9 mmol, 5.43 mL | O1CCCC1 | C4H8O
product | methyl 2-(1-(2-chlorophenyl)-1H-imidazol-2-yl)-5,6-dihydrobenzo[f]imidazo[1,2-d][1,4]oxazepine-10-carboxylate | ClC1=C(C=CC=C1)N1C(=NC=C1)C=1N=C2N(CCOC3=C2C=C(C=C3)C(=O)OC)C1 | C22H17ClN4O3
